Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left shoulder pain
 
Major Surgical or Invasive Procedure:
Muscle biopsy of the left deltoid
 
History of Present Illness:
___ y.o male with past medical history significant for DM, remote 
heart attack who presents with acute onset shoulder pain of 5 
days duration. The pain became worse the day after onset, and he 
presented to the emergency room where he was ruled out for a 
myocardial infarction. Aspiration of the joint yielded no fluid. 
The patient went to his primary care provider who referred him 
to orthopedics, where he was ordered an MRI. His MRI the day 
prior to admission showed diffuse edema of his deltoid and 
trapezius muscles. The patient finds that any sort of movement 
causes the pain to be much worse. He took some motrin and 
percocet at home which provided some relief ___ -> ___ pain.  

  
Of note, the patient reports that several months ago he had what 
was a presumed gout attack in his hands that his son, an ER 
physician prescribed him prednisone. This entirely resolved his 
symptoms, but a definitive diagnosis was never made. He denies 
any recent upper respiratory symptoms, fevers, chills, or other 
symptoms at home. He has not had any recent medication changes. 
He has no history of trauma or abnormal movement of his shoulder 
and cannot remember any injury to that area.  
In the ED, initial VS were 98 69 88/54 18 100%; The patient 
received morphine and percocet with mild improvement of his 
pain. His creatinine was also found to be elevated at 2.1 from 4 
days prior.  

ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.  
 
Past Medical History:
DM (DIABETES MELLITUS), TYPE 2, UNCONTROLLED  
Familial hemochromatosis H63D Carrier  
MAJOR DEPRESSIVE DISORDER, RECURRENT EPISODE, UNSPECIFIED  
NEPHROLITHIASIS  
CORONARY ARTERY DISEASE - NATIVE CORONARY ARTERY  
HISTORY COLONOSCOPY & POLYPECTOMY  
MYOCARDIAL INFARCTION  
CORONARY ANGIOPLASTY  
HYPERTENSION - ESSENTIAL  
 
Social History:
___
Family History:
no h/o rheumatologic disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: 98.3 126/69 18 99% on RA  
GENERAL: Well-appearing man in NAD, comfortable, appropriate.  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear.  
NECK: Supple, no thyromegaly, no JVD, no carotid bruits.  
HEART: RRR, ___ systolic murmur at base, normal S1, S2.  
LUNGS: Mild crackles at left base..  
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.  
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses. Diabetic foot 
ulcer at base of left hallix. Marked pain with passive and 
active movement of left shoulder, localizing to deltoid region.  

SKIN: No rashes or lesions.  
LYMPH: No cervical LAD.  
NEURO: Awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact, steady gait.  

DISCHARGE PHYSICAL EXAM
Vitals: afebrile T 98(99.1) BP 118/67(118-154/65-78) P 83 RR 18 
SA 96%RA 
General: Awake, AxO3, no acute distress
HEENT: NC/AT, EOMI, sclera anicteric, MMM, no lesions noted in 
oropharynx 
Neck: Supple, no LAD 
chain. Lymph node was nontender and soft with mild enlargement. 
Pulmonary: Lungs generally clear to auscultation without R/R/W 
no crackles appreciated. Although examined in the supine 
position due to pain.    
Cardiac: RRR, nl S1S2, w/o R/G, grade ___ systolic murmur noted 
on exam.  
Abdomen: Soft, nontender, w/ bowel sounds present. No 
organomegaly noted.  
Extremities: WWP, no c/c/e, 2+ pulses bilaterally. Significantly 
increased range of motion. Decreased tenderness on both passive 
and active movement. Pt describes mild tenderness on palpation 
along pes anserinus. Tenderness on pes anserinus palpation. 
Skin: Ulcer noted on first MPJ with bandage. Prominent callus 
noted on right MPJ.
 
Pertinent Results:
ADMISSION LABS
___ 06:00PM BLOOD WBC-6.2 RBC-4.49* Hgb-14.3 Hct-41.3 
MCV-92 MCH-31.8 MCHC-34.6 RDW-13.4 Plt ___
___ 06:00PM BLOOD Neuts-78.7* Lymphs-13.9* Monos-5.7 
Eos-0.3 Baso-1.3
___ 06:00PM BLOOD Glucose-155* UreaN-43* Creat-2.1* Na-136 
K-4.6 Cl-99 HCO3-23 AnGap-19
___ 12:26PM BLOOD CK-MB-4
___ 12:26PM BLOOD CK(CPK)-421*
___ 06:17PM BLOOD K-3.8

PERTINENT LABS
___ 09:20AM BLOOD ESR-87*
___ 08:20AM BLOOD Calcium-8.6 Phos-2.6* Mg-2.1 Iron-19*
___ 08:20AM BLOOD calTIBC-213* Ferritn-905* TRF-164*
___ 07:30AM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE
___ 07:30AM BLOOD ANCA-NEGATIVE B
___ 07:30AM BLOOD CRP-243.8*
___ 02:31PM BLOOD TRICHINELLA IGG ANTIBODY-PND

MICROBIOLOGY
ASO titer 400-800
Lyme serology negative
Blood Cx x 2 on ___: NGTD
Muscle Bx Cx/Gram stain ___ 10:30 am TISSUE     Site: SHOULDER      LEFT DELTOID 
MUSCLE. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Preliminary): 

   ANAEROBIC CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary): 

IMAGING
MRI SHOULDER ___
IMPRESSION: Trace fluid in the acromioclavicular joint with 
minimal 
irregularity of the articular surfaces and large amount of edema 
in the 
trapezius and deltoid muscles. The spectrum of findings could be 
seen in the setting of acute injury as in a grade 1 sprain of 
the acromioclavicular joint. 
However, given the absence of any history of trauma the findings 
are 
consistent with nonspecific myositis of the trapezius and 
deltoid muscles.  Given the trace amount of fluid in the 
acromioclavicular joint superimposed infection in this region 
cannot be excluded. The amount of fluid would not be amenable to 
image-guided joint aspiration. This would be an atypical 
location for diabetic myonecrosis. 

EKG ___
Sinus rhythm. Non-specific ST-T wave abnormalities. Cannot 
exclude ischemia. Compared to the previous tracing of ___ T 
wave abnormalities are more prominent in leads V2-V4. 

US LEFT SHOULDER ___
There is no evidence of focal fluid collection around the region 
of pain. No soft tissue calcifications are identified. 

MR THIGHS ___
IMPRESSION: Myositis involving the left quadriceps groups, most 
severely 
affecting the left vastus lateralis and vastus medialis as 
detailed above.  Differential considerations include infectious 
and inflammatory myositis, including drug reaction, as well as 
diabetic myonecrosis. No evidence of focal fluid collection or 
other sign of abscess formation. 

PATHOLOGY ___ Muscle Biopsy
- Pending at time of discharge
 
Brief Hospital Course:
___ y.o male with history of DM and remote MI who presents to the 
hospital today with right shoulder pain and MRI findings showing 
edema of the trapezius and deltoid muscles.  

Pt was admitted to the medicine service where pain control was 
initiated with tylenol and oxycodone.  His renal failure 
resolved with IVF.  Trial of NSAIDs was used x 2 however each 
with bump in Cr, so pt was discharged off of NSAIDs.  
Rheumatology was consulted and as per their recommendations, MRI 
of thighs was done (read in previous section) and mm bx of left 
deltoid done with with ACS c/s.  Given lack of microrganisms on 
the gram stain, and PMNs likely c/w inflammation, steroids were 
started once an infx was r/o.  The patient was also seen by ___ 
who recommended outpt ___ as well as shoulder exercises for the 
patient.  Statin was briefly stopped, however restarted given 
normalizing CK with hydration.

# Myositis/arthropathy - Upon presentation, ddx was broad and as 
such, many tests were checked including ASO (titer 400-800, 
positive), lyme serology (negative), CK for statin induced 
myopathy (400, resolved with IVF), and trichinella Ab (pending 
at time of discharge).  Pt's family most concerned with PMR, 
however reassured pattern does not seem c/w this.  ESR and CRP 
were checked which were elevated (87 and 243 respectively).  
Blood Cx were also checked given possible pyomyositis, thought 
from diabetic foot ulcer, however they remained NGTD throughout 
hospitalization.  Rheumatology was c/s who felt that MRI thigh 
was indicated which showed unilateral myositis in the left 
quadriceps group.  Notably, on exam the patient seemed to show 
pain to both passive and active movement, and as such we felt 
that he likely had both a problem in his joints as well as the 
actual muscles.  A muscle biopsy was done with the ___ team c/s 
which upon initial gram stain was negative for microorganisms, 
which allowed us to start steroids (we were concerned about 
possible pyomyositis).  Also of concern was diabetic 
myonecrosis, however unlikely given that multiple mm groups with 
different blood supply was involved.  Rheumatology felt it was 
possible that the pain in both the left AC joint as well as the 
pes anserinus on the right leg (which developed on HD3), may 
both be crystal arthropathy/bursitis, and as such recommended 
steroids.  We held off on empiric steroids until after the bx, 
and upon initiation, drastic improvement on sxs was noted.  
Ultimately, thought was that possibly myositis ___ traumatic 
fall on left hand side with underlying crystal arthropathy 
(however not enough fluid on MRI or US to tap).  he will have 
rheumatology f/u in the ___ system, and our rheumatology c/s 
attdg will attempt to contact his outpt rheumatologist for 
continuity of care.  He was discharged with a prednisone taper 
and close f/u with his PCP.

# Acute renal failure - Fena was <1%, and BUN/Cr ratio >10.  As 
such thought was that this was likely prerenal.  With hydration, 
Cr down to 1.0.  NSAIDs were attempted for pain relief which 
helped, unfortunately his Cr again bumped so NSAIDs were 
discontinued and the patient was asked to avoid them at time of 
discharge.
  
# Diabetes - continued home regimen of lantus and HISS.  
Notably, pt did have higher blood sugars upon initation of his 
steroids.  The patient was advised to closely monitor his BS at 
home to cover himself with SSI.  notably, diabetic myonecrosis 
was on the ddx however we felt this was unlikely given the 
location of the myositis.  There was also thought of possible 
contribution of his diabetes and insulin usage to a possible 
adhesive capsulitis in the left shoulder.

# Anemia: Pt's hct was 40 upon presentation, and dropped to 32 
over his hospitalization in the setting of aggressive hydration 
for ARF.  Notably, guaiac was negative, and iron studies were 
c/w anemia of chronic inflammation

# Constipation: Pt developed narcotic induced constipation, and 
an aggressive bowel regimen was written for him.  he required an 
enema in order to pass stools, and as such, he was discharged 
with an aggressive prescription regimen for his constipation.

# Foot ulcer: Pt has known DM with foot ulcer, followed by 
podiatry.  Wound c/s was asked to see patient who assisted with 
foot ulcer care.  No concern of osteo.  Out of slight concern of 
possible contribution to a "pyomyositis-like picture," we 
checked blood Cx which were negative at time of discharge.
  
# Hypertension - continued atenolol.  
 
# History of CAD - continued ASA, atenolol as prior.  Statin was 
briefly stopped and reinitiated at time of discharge given 
normal CK.

# FOLLOW UP ISSUES
Pt had blood cx and a trichinella ag test pending at time of 
discharge
Pt will need to f/u with rheumatology within ___.  Our 
rheumatology attending at the ___ will attempt to contact his 
new rheumatologist for continuity of care.
 
Medications on Admission:
Hydrocodone-Acetaminophen ___ mg Oral Tablet take 1 to 2 
tablets every ___ hours as needed for pain  
Simvastatin 40 mg Oral Tablet take 1 and ___ tablet by mouth 
every evening for cholesterol  
Atenolol 25 mg Oral Tablet take 1 tablet daily  
Losartan 25 mg Oral Tablet Take 1 tablet daily  
Insulin Glargine (LANTUS) 100 unit/mL Subcutaneous Solution 
inject 50 units AS DIRECTED  
Clotrimazole (LOTRIMIN) 1 % Topical Cream Apply to affected area 
twice daily --> NOT USING  
Insulin Lispro (HUMALOG KWIKPEN) 100 unit/mL Subcutaneous 
Insulin Pen Use as directed, ___ units pre meal.  
HUMALOG 100 UNIT/ML SUB-Q (INSULIN LISPRO) inject 50 units daily 
in divided doses  
NITROQUICK 0.4 MG SUBLINGUAL TAB (NITROGLYCERIN) PLACE 1 TABLET 
UNDER THE TONGUE AS NEEDED FOR CHEST PAIN AS DIRECTED  
LACTULOSE 10 GRAM/15 ML ORAL SOLN take 1 tablespoon(15mls) by 
mouth twice daily -- NOT USING  
NOVOLOG 100 UNIT/ML SUB-Q (INSULIN ASPART) inject 50 units DAILY 
in divided doses  
ssi: 80-100 none, 100-149: 12, 150-199: 14, 200-249: 16, 
250-299: 18, 300> 20 <-- max dose  
ASPIRIN TABLET ___ 325MG PO 1 TAB PO daily
 
Discharge Medications:
1. atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. losartan 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. insulin glargine 100 unit/mL Solution Sig: Fifty (50) units 
Subcutaneous once a day.  
4. insulin lispro 100 unit/mL Solution Sig: asdir units 
Subcutaneous asdir: As per your sliding scale at home.  
5. nitroglycerin  Sublingual
6. lactulose 10 gram Packet Sig: Fifteen (15) cc PO twice a day 
as needed for constipation.
Disp:*30 packets* Refills:*0*
7. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
8. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).
Disp:*90 Tablet(s)* Refills:*1*
9. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
10. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*30 Tablet(s)* Refills:*0*
11. Outpatient Physical Therapy
Please see patient for left shoulder pain for exercises and 
further therapy
12. prednisone 5 mg Tablet Sig: ___ Tablets PO asdir for 6 days: 
6 pills on ___ (day 1), 5 pills on day 2, 4 pills on day 3, 
3 pills on day 4, 2 pills on day 5, 1 pill on day 6.
Disp:*21 Tablet(s)* Refills:*0*
13. simvastatin 40 mg Tablet Sig: 1.5 Tablets PO at bedtime.  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Myositis

SECONDARY DIAGNOSES
Diabetes Mellitus (Insulin dependent)
Hypertension
Arthritis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
It was a pleasure taking care of you during your 
hospitalization.  You were admitted to ___ with left shoulder 
pain.  We sent a variety of lab tests that showed you have 
inflammation, however no obvious diagnosis.  We asked our 
rheumatology team to see you as well.  It is possible that you 
have both a problem in your joint as well as your muscles, and 
it may be as simple as a traumatic fall causing these symptoms.  
However, we did a muscle biopsy in an effort to get at the 
definitive diagnosis, and you should follow up with a 
rheumatologist about the results.

PLEASE MAKE THE FOLLOWING CHANGES TO YOUR MEDICATIONS
- START taking PREDNISONE 5 mg pills as follows:
6 pills starting tomorrow
5 pills the next day
4 pills the next day
3 pills the next day
2 pills the next day
1 pill the next day
- START taking DOCUSATE 100 MG by mouth twice daily
- START taking SENNA 1 tab by mouth twice daily as needed for 
constipation
- START taking LACTULOSE 15CC by mouth twice daily as needed for 
constipation
- START taking TYLENOL ___ mg by mouth three times daily
- DO NOT take IBUPROFEN for your pain because of your kidneys
- BE SURE to check your blood sugars regularly while you are on 
your prednisone

Please follow up with you physicians as indicated below
 
Followup Instructions:
___